US04393217
As for Example 1, 2',5'-dichloro-2-cyanoacetanilide, as a white crystalline product, m.p. 190.5°-191.5° C. (prepared by the procedure described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylformamide dimethylacetal to yield 2-cyano-2',5'-dichloro-3-dimethylaminoacrylanilide as colorless needles, m.p. 175°-176° C.

reactant | 2',5'-dichloro-2-cyanoacetanilide | ClC1=C(NC(CC#N)=O)C=C(C=C1)Cl | C9H6Cl2N2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2-cyano-2',5'-dichloro-3-dimethylaminoacrylanilide | C(#N)C(C(=O)NC1=C(C=CC(=C1)Cl)Cl)=CN(C)C | C12H11Cl2N3O
